US07572809B2
h) Preparation of [1-Chloro-6,7-bis-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine
A mixture of 6,7-Bis-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol (1.8 g, 4.64 mmol) in POCl3 (15 ml) was sealed in microwave process vial (20 ml). The mixture was heated at 170° C. for 30 minutes under microwave irradiation. After removal of solvent, the ice water was added to the residue, and the mixture was neutralized by 2M NaOH, extracted by EtOAc. The organic layer was concentrated and the residue was purified by flash column chromatography to give product as a solid (0.7 g, 37.6%). LC-MS: m/e 408 (MH+).

reactant | 6,7-Bis-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | 4.64 mmol, 1.8 g | COCCOC=1C=C2C=C(N=C(C2=CC1OCCOC)O)NC1=NNC(=C1)C | C19H24N4O5
reactant | POCl3 | 15 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | [1-Chloro-6,7-bis-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 0.7 g, 37.6% | ClC1=NC(=CC2=CC(=C(C=C12)OCCOC)OCCOC)NC1=NNC(=C1)C | C19H23ClN4O4
